US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole-5-carbaldehyde
A solution of 1-[4-(tert-butyl-dimethylsilanyloxy)-cyclohexyl]-4-iodo-1H-pyrazole (100.0 mg, 0.2461 mmol) in THF (6 mL, 70 mmol) was cooled to −78° C. and added 1.5 M of LDA in cyclohexane (0.213 mL, 0.320 mmol). After stirring for 5 min, DMF (0.1 mL, 1 mmol) was added slowly, and the mixture was stirred at −78° C. for 30 min. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was dry-loaded onto silica gel for column chromatography, eluting with 1-3% EtOAc/heptane. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a clear oil. MS (ES+): m/z=435.10 (100) [MH+]. HPLC: tR=2.18 min (polar—3 min, UPLC-ACQUITY).

reactant | 1-[4-(tert-butyl-dimethylsilanyloxy)-cyclohexyl]-4-iodo-1H-pyrazole | 0.2461 mmol, 100.0 mg | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1N=CC(=C1)I | C15H27IN2OSi
reactant | THF | 70 mmol, 6 mL | C1CCOC1 | C4H8O
reactant | LDA | 1.5 M | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 0.320 mmol, 0.213 mL | C1CCCCC1 | C6H12
reactant | DMF | 1 mmol, 0.1 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-1H-pyrazole-5-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C=O)I | C16H27IN2O2Si
